US04455441
A solution of methyl 6-hydroxy-(Z)-3-hexenoate (0.7684 g, 5.3 mmol), 3,4-dihydropyran (0.72 mL, 7.9 mmol, 1.5 eq) and pyridinium p-toluenesulfonate (PPTS, 125 mg, 0.5 mmol) in methylene chloride (25 mL) is stirred for 4 hours at room temperature. The solution is then diluted with ether (150 mL), and the ether layer is washed with half-saturated brine (50 mL) to remove the catalyst, and dried over magnesium sulfate. Purification by flash chromatography using hexane/ethyl acetate (90:10, v/v) affords methyl 6-tetrahydropyranyloxy-(Z)-3-hexenoate (1.19 g, 99%) as a clear colorless oil: Rf=0.38, hexane/ethyl acetate (7:3, v/v), IR (film) ν2850-3000 (C=CH, alkane CH), 1740 (C=O) and H NMR (CDCl3) δ1.45-1.65 (m, 6H), 2.35 (m, 2H), 3.10 (d, J=6 Hz, 2H), 3.30-3.70 (m, 4H), 3.58 (sS, 3H), 4.55 (br s, 1H), 5.65 (br t, J=6 Hz, 2H).

reactant | methyl 6-hydroxy-(Z)-3-hexenoate | 5.3 mmol, 0.7684 g | OCC\C=C/CC(=O)OC | C7H12O3
reactant | 3,4-dihydropyran | 7.9 mmol, 0.72 mL, 1.5 eq | O1CCCC=C1 | C5H8O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 150 mL | CCOCC | C4H10O
catalyst | pyridinium p-toluenesulfonate | 0.5 mmol, 125 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | methyl 6-tetrahydropyranyloxy-(Z)-3-hexenoate | 1.19 g, 99% | O1C(CCCC1)OCC\C=C/CC(=O)OC | C12H20O4
